data/oMe_Silver.jsonl
{"reaction_id": "NR-130_1-c2ccccc2_2-C(=O)OC_3-C(=O)C","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(C(=O)OC)=C(C(=O)C)N(c2ccccc2)c2ccccc2"],"products_smiles": ["c1ccc2c(c1)c(C(=O)OC)c(C(=O)C)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(C(=O)OC)=C(C(=O)C)N(c2ccccc2)c2ccccc2","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(C(=O)OC)C(C(=O)C)=[N+](c2ccccc2)c2ccccc2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(C(=O)OC)C(C(=O)C)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(C(=O)OC)c(C(=O)C)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
{"reaction_id": "NR-001_1-C_2-c1ccc(F)cc1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(C)(c1ccc(F)cc1)C=O","C(C)(c1ccc(F)cc1)C=O"],"products_smiles": ["C(C)(c1ccc(F)cc1)C(O)C(C)(c1ccc(F)cc1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1ccc(F)cc1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(c1ccc(F)cc1)C([O-])C(C)(c1ccc(F)cc1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c1ccc(F)cc1)C(O)C(C)(c1ccc(F)cc1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
